US04431651
A mixture containing 9 g of 3,4-dihydro-5-(4-methoxyphenyl)-6-methyl-2(1H)-pyridinone, 100 ml of collidine and 38 g of lithium iodide was heated under reflux for 28 hours and then concentrated to dryness on a rotary evaporator. The residue was dissolved in 100 ml of water and again concentrated to dryness on a rotary evaporator; this process was repeated twice to remove the last traces of collidine. The solid residue was dissolved in water and the aqueous solution acidified with concentrated hydrochloric acid. The gummy solid that separated on chilling was collected, washed with water, dried at room temperature, recrystallized from ether-isopropyl alcohol using decolorizing charcoal and then chromatographed over 100 g of silica gel using 5% methanol in ether as eluant to produce 3.1 g of 3,4-dihydro-5-(4-hydroxyphenyl)-6-methyl-2(1H)-pyridinone, m.p. 197°-200° C.

reactant | 3,4-dihydro-5-(4-methoxyphenyl)-6-methyl-2(1H)-pyridinone | 9 g | COC1=CC=C(C=C1)C=1CCC(NC1C)=O | C13H15NO2
reactant | lithium iodide | 38 g | [I-].[Li+]
solvent | collidine | 100 ml | N1=C(C=C(C=C1C)C)C | C8H11N
product | 3,4-dihydro-5-(4-hydroxyphenyl)-6-methyl-2(1H)-pyridinone | 3.1 g | OC1=CC=C(C=C1)C=1CCC(NC1C)=O | C12H13NO2
